US07683084B2
(3S)-3-fluoro-N-[(2Z)-5-methyl-3-(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)-1,3-thiazol-2(3H)-ylidene]pyrrolidine-1-carboxamide
A solution of (3R)-3-hydroxy-N-[(2Z)-5-methyl-3-(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)-1,3-thiazol-2(3H)-ylidene]pyrrolidine-1-carboxamide (Example 109, 0.1 g, 0.23 mmol )in dry CH2Cl2 (5 mL) was treated with bis(2-methoxyethyl)aminosulfur trifluoride (0.056 g, 0.25 mmol). After 2 hours at room temperature, the mixture was neutralized by dropwise addition of a saturated solution of sodium bicarbonate. The mixture was washed with water and brine, dried over sodium sulfate, filtered, and evaporated under reduced pressure. The residue was purified over silica using CH2Cl2 as eluant. 1H NMR (CDCl3) δ ppm 2.00 (2H), 2.25 (3H), 3.35-3.85 (4H), 5.15-5.30 (1H), 6.60 (1H), 7.20 (1H), 7.35 (1H), 7.45 (1H); MS (ESI) m/z 436(M+H)+.

reactant | (3R)-3-hydroxy-N-[(2Z)-5-methyl-3-(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)-1,3-thiazol-2(3H)-ylidene]pyrrolidine-1-carboxamide | O[C@H]1CN(CC1)C(=O)\N=C\1/SC(=CN1C1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1)C | C17H15F4N3O4S
reactant | bis(2-methoxyethyl)aminosulfur trifluoride | 0.25 mmol, 0.056 g | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (3S)-3-fluoro-N-[(2Z)-5-methyl-3-(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)-1,3-thiazol-2(3H)-ylidene]pyrrolidine-1-carboxamide | F[C@@H]1CN(CC1)C(=O)\N=C\1/SC(=CN1C1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1)C | C17H14F5N3O3S
